US09315475B2
Step 1: Preparation of tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-{[(phenylcarbonyl)amino]methyl}morpholine-4-carboxylate
HATU (1.4 eq) was added to a stirred mixture a solution of tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq), benzoic acid (1.2 eq) and 2,6-lutidine (2 eq) in DMF (0.05 M) and the mixture was stirred at room temperature for 16 hrs. The mixture was diluted in EtOAc, The organic layer was washed with aqueous saturated NH4Cl and brine. The organic layer was dried over Na2SO4, filtered and evaporated. The residue was purified by automated silica gel flash chromatography system eluted with a gradient 10% to 100% of EtOAc/Hex to afford title compound.

reactant | HATU | 1.4 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq | NC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H44N4O6
reactant | benzoic acid | 1.2 eq | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2,6-lutidine | 2 eq | N1=C(C=CC=C1C)C | C7H9N
solvent | DMF | 0.05 M | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-{[(phenylcarbonyl)amino]methyl}morpholine-4-carboxylate | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CNC(=O)C1=CC=CC=C1)C(=O)OC(C)(C)C | C42H48N4O7
